* Z:\mnt\design.r\spice\examples\3922.asc
L1 IN N001 4.7µ
C1 N002 N001 .1µ
C2 N003 0 4.7µ
C3 N017 0 1n
C4 N013 0 .001µ
C6 N012 0 2.2µ
R3 N012 N014 100K
R4 N016 0 45.3K
R5 N003 N007 300m
R6 N003 N005 1Meg
R7 N005 0 33.2K
C5 N008 0 1µ
V1 IN 0 20
D1 N011 0 LXHL-BW02 n=10
M1 N011 N009 N007 N007 IRF7343P
R2 IN N004 1Meg
R8 N004 N006 365K
R9 N006 0 59K
R1 N012 N015 100K
XU1 N001 N002 N012 IN N004 N006 N008 N008 N003 N007 N017 N005 N013 N010 N014 N016 0 0 N015 N009 N003 0 LT3922
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
.lib LT3922.sub
.backanno
.end
